US04497813
A solution of 15.4 g of benzyl [4-(2,3-epoxypropoxy)-phenyl]ether and 17.0 g of 6-(2-benzylaminopropoxy)-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one in 100 ml of isopropanol is refluxed for 24 hours, filtered and concentrated by evaporation. Trituration of the residue with approximately 200 ml of ether results in crystallisation of 1-[N-[2-(2,3-dihydro-2,2-dimethyl-4-oxo-4H-1,3-benzoxazin-6-yloxy)-1-methylethyl]benzylamino]-3-(4-benzyloxyphenoxy)propan-2-ol having a melting point of 149°-160° (in which the enantiomer pair A is present in greater amount).

reactant | benzyl [4-(2,3-epoxypropoxy)-phenyl]ether | 15.4 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1CO1 | C16H16O3
reactant | 6-(2-benzylaminopropoxy)-2,3-dihydro-2,2-dimethyl-4H-1,3-benzoxazin-4-one | 17.0 g | C(C1=CC=CC=C1)NC(COC=1C=CC2=C(C(NC(O2)(C)C)=O)C1)C | C20H24N2O3
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 1-[N-[2-(2,3-dihydro-2,2-dimethyl-4-oxo-4H-1,3-benzoxazin-6-yloxy)-1-methylethyl]benzylamino]-3-(4-benzyloxyphenoxy)propan-2-ol | CC1(OC2=C(C(N1)=O)C=C(C=C2)OCC(C)N(CC(COC2=CC=C(C=C2)OCC2=CC=CC=C2)O)CC2=CC=CC=C2)C | C36H40N2O6
